US03976645
Reaction of acrylonitrile with 3 -(m-fluorophenyl)- 3-hydroxyindolin-2-one by a procedure analogous to that of Example 1 gives 1-(2-cyanoethyl)- 3-(m-fluorophenyl)- 3-hydroxyindolin-2-one. Hydrogenation of 1-(2-cyanoethyl)- 3-(m-fluorophenyl)-3-hydroxyindolin-2-one by a procedure analogous to that of Example 2 gives 1-(3-aminopropyl)- 3-(m-fluorophenyl)-3-hydroxyindolin-2-one. Cyclodehydration of 1-(3-aminopropyl)-3-(m-fluorophenyl)-3-hydroxyindolin-2-one by a procedure analogous to that of Example 3 gives 10-(m-fluorophenyl)- 2,3,4,10-tetrahydropyrimido[ 1,2-a] indol-10-ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 3 -(m-fluorophenyl)- 3-hydroxyindolin-2-one | FC=1C=C(C=CC1)C1(C(NC2=CC=CC=C12)=O)O | C14H10FNO2
product | 1-(2-cyanoethyl)- 3-(m-fluorophenyl)- 3-hydroxyindolin-2-one | C(#N)CCN1C(C(C2=CC=CC=C12)(O)C1=CC(=CC=C1)F)=O | C17H13FN2O2
